US05459267
To a solution of 1,4-diazabicyclo[2.2.2]octane (11.2 g, 0.1 mole) in water (100 mL) was added 30% hydrogen peroxide (22.8 mL) while maintaining the temperature between 1-5 and 20° C. The reaction was stirred at room temperature (20°-22° C.) overnight. Next, boron trifluoride gas (6.8 g, 0.1 mole) and tetrafluoroboric acid (50% solution, 10 mL, 0.1 mole) were added, the solution cooled to 9° C. and treated with a mixture of fluorine in nitrogen (10%V/V, 0.125 mole). The reaction was evaporated, the remaining solid washed with acetone and dried to afford 30 grams of 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (93% yield).

reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1 mole, 11.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrogen peroxide | 22.8 mL | OO | H2O2
reactant | boron trifluoride | 0.1 mole, 6.8 g | B(F)(F)F | BF3
reactant | tetrafluoroboric acid | 0.1 mole, 10 mL | F[B-](F)(F)F.[H+]
reactant | fluorine | FF | F2
reactant | water | 100 mL | O | H2O
product | 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 30 grams, 93% yield | F[B-](F)(F)F.F[B-](F)(F)F.O[N+]12CC[N+](CC1)(CC2)F | InChI=1S/C6H13FN2O.2BF4/c7-8-1-4-9(10,5-2-8)6-3-8;2*2-1(3,4)5/h10H,1-6H2;;/q+2;2*-1
